US05556864
92(a) 2-(2-{2-[2-(3-Chlorophenyl)ethyl]phenoxy}ethyl)-1-methylpyrrolidine
1.06 g of potassium t-butoxide were added to a solution of 1.00 g of 2-[2-(3-chlorophenyl)ethyl]phenol (prepared as described in Preparation 44) in 20 ml of dimethylacetamide, whilst cooling by ice and sodium chloride and stirring. 0.949 g of 2-(2-chloroethyl)-1-methylpyrrolidine hydrochoride was then added to the solution, and the mixture was stirred at 50° C. for 3 hours. At the end of this time, the reaction mixture was cooled, and 100 ml of ethyl acetate and 50 ml of water were added to the mixture, which was then shaken. The ethyl acetate layer was separated, washed twice with a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. The ethyl acetate layer was then concentrated by distillation under reduced pressure, and the concentrate was purified by column chromatography through silica gel, using a 20:1 by volume mixture of methylene chloride and methanol as the eluent, to give 0.770 g (yield 52%) of the title compound as a colorless oil.

reactant | potassium t-butoxide | 1.06 g | CC(C)([O-])C.[K+]
reactant | 2-[2-(3-chlorophenyl)ethyl]phenol | 1.00 g | ClC=1C=C(C=CC1)CCC1=C(C=CC=C1)O | C14H13ClO
reactant | sodium chloride | [Cl-].[Na+]
reactant | 2-(2-chloroethyl)-1-methylpyrrolidine hydrochoride | 0.949 g | Cl.ClCCC1N(CCC1)C
solvent | dimethylacetamide | 20 ml | CC(=O)N(C)C | C4H9NO
solvent | water | 50 ml | O | H2O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 2-(2-{2-[2-(3-Chlorophenyl)ethyl]phenoxy}ethyl)-1-methylpyrrolidine | 0.770 g, yield 52% | ClC=1C=C(C=CC1)CCC1=C(OCCC2N(CCC2)C)C=CC=C1 | C21H26ClNO
